US06762180B1
(18) 3-Z-[1-(4-(tetrazol-5-yl)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone and 4-(tetrazol-5-yl)-aniline Rf value: 0.5 (silica gel, methylene chloride/ethanol=5:1) C25H20N6O3

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OCC)=C(C1=CC=CC=C1)OCC)=O | C22H21NO5
reactant | 4-(tetrazol-5-yl)-aniline | N1N=NN=C1C1=CC=C(N)C=C1 | C7H7N5
product | 3-Z-[1-(4-(tetrazol-5-yl)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone | N1N=NN=C1C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OCC)=O)C=C1 | C25H20N6O3
